US08030498B2
Preparation of 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 2-methyl-4-(methylsulfonyl)-3-(4,5-dihydroisoxazol-3-yl)phenyl ketone (Compound No. 39 as Described Hereinafter)
To a solution of 5-hydroxy-1-methylpyrazol-4-yl 3-(4,5-dihydroisoxazol-3-yl)-2-methyl-4-(methylsulfonyl)phenyl ketone (100 mg, 2.75×10−4 mol) in anhydrous tetrahydrofuran (5 mL) were added triethylamine (55 mg) and 96% S-ethyl chlorothiolformate (45 mg) at room temperature. After the reaction solution was stirred for 1 hour, 150 mL of ethyl acetate was added, and the solution was washed twice with a saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:4) to obtain the desired product (82 mg) as an oil.

reactant | 5-hydroxy-1-methylpyrazol-4-yl 3-(4,5-dihydroisoxazol-3-yl)-2-methyl-4-(methylsulfonyl)phenyl ketone | 2.75×10−4 mol, 100 mg | O1N=C(CC1)C=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)C)C | C16H17N3O5S
reactant | triethylamine | 55 mg | C(C)N(CC)CC | C6H15N
reactant | S-ethyl chlorothiolformate | 45 mg | CCSC(=O)Cl | C3H5ClOS
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 2-methyl-4-(methylsulfonyl)-3-(4,5-dihydroisoxazol-3-yl)phenyl ketone | 82 mg | CC1=C(C=CC(=C1C1=NOCC1)S(=O)(=O)C)C(=O)C=1C=NN(C1OC(=O)SCC)C | C19H21N3O6S2
